US07645789B2
Step d: (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-2-(1-hydroxy-2-methylpropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide
DMF (3 drops) was added to a stirring mixture of 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (1.87 g, 7.7 mmol) and thionyl chloride (1.30 mL, 17.9 mmol). After 1 hour a clear solution had formed. The solution was concentrated under vacuum and then toluene (3 mL) was added and the mixture was concentrated again. The toluene step was repeated once more and the residue was placed on high vacuum for 10 minutes. The acid chloride was then dissolved in dichloromethane (10 mL) and added to a mixture of (R)-2-(5-amino-1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-1H-indol-2-yl)-2-methylpropan-1-ol (1.8 g, 5.4 mmol) and triethylamine (2.24 mL, 16.1 mmol) in dichloromethane (45 mL). The reaction was stirred at room temperature for 1 hour. The reaction was washed with 1N HCl solution, saturated NaHCO3 solution and brine, dried over MgSO4 and concentrated to yield the product as a black foamy solid (3 g, 100%). ESI-MS m/z calc. 560.6, found 561.7 (M+1)+. Retention time 2.05 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.31 (s, 1H), 7.53 (s, 1H), 7.42-7.40 (m, 2H), 7.34-7.30 (m, 3H), 6.24 (s, 1H), 4.51-4.48 (m, 1H), 4.39-4.34 (m, 2H), 4.08 (dd, J=6.0, 8.3 Hz, 1H), 3.69 (t, J=7.6 Hz, 1H), 3.58-3.51 (m, 2H), 1.48-1.45 (m, 2H), 1.39 (s, 3H), 1.34-1.33 (m, 6H), 1.18 (s, 3H) and 1.14-1.12 (m, 2H) ppm

reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 7.7 mmol, 1.87 g | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)O)F | C11H8F2O4
reactant | thionyl chloride | 17.9 mmol, 1.30 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (R)-2-(5-amino-1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-1H-indol-2-yl)-2-methylpropan-1-ol | 5.4 mmol, 1.8 g | NC=1C=C2C=C(N(C2=CC1F)C[C@H]1OC(OC1)(C)C)C(CO)(C)C | C18H25FN2O3
reactant | triethylamine | 16.1 mmol, 2.24 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | (R)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-6-fluoro-2-(1-hydroxy-2-methylpropan-2-yl)-1H-indol-5-yl)cyclopropanecarboxamide | 3 g, 100% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2F)C[C@H]2OC(OC2)(C)C)C(CO)(C)C)F | C29H31F3N2O6
